US06541583B2
Preparation of Catalyst III: Bis-(5,8-dimethyl-5,10-dihydroindeno[1,2-b]indolyl)zirconium Dichloride
Under the nitrogen protection, 0.24 gram (0.001 mole) of 5,8-dimethyl-5,10-dihydroindeno[1,2-b]indolyllithium is dissolved in 20 mL of diethylether. The solution is slowly added to zirconium tetrachloride (0.12 gram, 0.0005 mole) slurry in 20 mL of diethylether. The mixture is stirred at 25° C. for two hours, filtered, washed with diethylether and dried under vacuum, yielding 0.23 gram of Catalyst III.

reactant | 5,8-dimethyl-5,10-dihydroindeno[1,2-b]indolyllithium | 0.001 mole, 0.24 gram | CN1C2=C(C=3C=C(C=CC13)C)CC1=C(C=CC=C12)[Li]
reactant | zirconium tetrachloride | 0.0005 mole, 0.12 gram | [Cl-].[Cl-].[Cl-].[Cl-].[Zr+4]
solvent | diethylether | 20 mL | C(C)OCC | C4H10O
solvent | diethylether | 20 mL | C(C)OCC | C4H10O
product | Bis-(5,8-dimethyl-5,10-dihydroindeno[1,2-b]indolyl)zirconium Dichloride | [Cl-].[Cl-].CN1C2=C(C=3C=C(C=CC13)C)CC1=C(C=CC=C12)[Zr+2]C1=C2CC3=C(N(C=4C=CC(=CC34)C)C)C2=CC=C1 | InChI=1S/2C17H14N.2ClH.Zr/c2*1-11-7-8-16-14(9-11)15-10-12-5-3-4-6-13(12)17(15)18(16)2;;;/h2*3-4,6-9H,10H2,1-2H3;2*1H;/q;;;;+2/p-2
